US04165371
To a 10 ml round bottom flask were added 1.50 g (0.00867 ) of 1,2,3,4,5,6-hexahydro-1,6-methano-3-benzazocine, 2ml of formic acid and 2 ml of 40% formaldehyde. The mixture was heated at 95-105° for 3 hours, cooled, 60 ml of 15% sodium hydroxide added, and the aqueous layer extracted with four 60-ml portions of methylene chloride. The combined extracts were concentrated in vacuo in the presence of benzene to remove water. The residue, 1.55 g (0.00829 mol), was distilled (90°-115° bath temperature, 0.1 mm) to give colorless 3-methyl-1,2,3,4,5,6-hexahydro-1,6-methano-3-benzazocine (1.1g, 68% yield). The amine was dissolved in ether and hydrogen chloride gas passed into the solution. The white precipitate obtained was filtered and recrystallized from acetone-ether: m.p. 215°-216° (d); m/e 187 (M+ -HCl).

reactant | 1,2,3,4,5,6-hexahydro-1,6-methano-3-benzazocine | 1.50 g | C12CNCCC(C3=C1C=CC=C3)C2 | C12H15N
reactant | formaldehyde | 2 ml | C=O | CH2O
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
solvent | formic acid | 2ml | C(=O)O | CH2O2
product | 3-methyl-1,2,3,4,5,6-hexahydro-1,6-methano-3-benzazocine | 1.1g, 68% yield | CN1CC2C3=C(C(CC1)C2)C=CC=C3 | C13H17N
